US07875639B2
5-Fluoro-3-(2-methoxyethyl)-3H-benzothiazol-2-ylideneamine
Commercially available 5-fluoro-benzothiazol-2-ylamine and 2-bromoethyl methyl ether were processed as described for Example 46A to afford the title compound. MS (ESI+) m/z 227 (M+H)+.

reactant | 5-fluoro-benzothiazol-2-ylamine | FC=1C=CC2=C(N=C(S2)N)C1 | C7H5FN2S
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | 5-Fluoro-3-(2-methoxyethyl)-3H-benzothiazol-2-ylideneamine | FC=1C=CC2=C(N(C(S2)=N)CCOC)C1 | C10H11FN2OS
